US07723336B2
A 1.75N NaOH solution (39.52 mmol, 22.58 ml) was added to a suspension of 2-thioxo-2,3-dihydropyrazolo[1,5-a][1,3,5]triazin-4(1H)-one (3.32 g, 19.76 mmol) from 1b in absolute EtOH (80 mL). Methyl iodide (2.80 g, 19.76 mmol) was then added and the reaction mixture was allowed to stir for 2 hours at room temperature. The resulting precipitate was collected by vacuum filtration, suspended in water (110 mL) and acidified with 2NH2SO4. The solution was stirred at 0° C. for 5 minutes and the new precipitate was collected by vacuum filtration, washed with cold water, and then air dried to give 1.88 g (52%) of 2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4(3H)-one.

reactant | NaOH | 39.52 mmol, 1.75N, 22.58 ml | [OH-].[Na+]
reactant | 2-thioxo-2,3-dihydropyrazolo[1,5-a][1,3,5]triazin-4(1H)-one | 19.76 mmol, 3.32 g | S=C1NC=2N(C(N1)=O)N=CC2 | C5H4N4OS
reactant | Methyl iodide | 19.76 mmol, 2.80 g | CI | CH3I
solvent | EtOH | 80 mL | CCO | C2H6O
product | 2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4(3H)-one | 1.88 g, 52% | CSC1=NC=2N(C(N1)=O)N=CC2 | C6H6N4OS
